US09233965B2
To a solution under nitrogen of 6.34 g (16.5 mmol) of tert-butyl 7-bromo-8-carbamoyl-6-cyclopropyl-3,4-dihydro-1H-pyrrolo[1,2-a]pyrazine-2-carboxylate in 120 ml of methanol are added 10.5 ml of trimethylsilyl chloride. After reaction for 18 hours, the medium is concentrated under reduced pressure, the residue is taken up in toluene and the solvent is evaporated off under reduced pressure. 5.4 g of 7-bromo-6-cyclopropyl-3,4-dihydropyrrolo[1,2-a]pyrazine hydrochloride are thus obtained in the form of a yellow powder.

reactant | tert-butyl 7-bromo-8-carbamoyl-6-cyclopropyl-3,4-dihydro-1H-pyrrolo[1,2-a]pyrazine-2-carboxylate | 16.5 mmol, 6.34 g | BrC=1C(=C2N(CCN(C2)C(=O)OC(C)(C)C)C1C1CC1)C(N)=O | C16H22BrN3O3
reactant | trimethylsilyl chloride | 10.5 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | methanol | 120 ml | CO | CH4O
product | 7-bromo-6-cyclopropyl-3,4-dihydropyrrolo[1,2-a]pyrazine hydrochloride | 5.4 g | Cl.BrC=1C=C2N(CCN=C2)C1C1CC1 | InChI=1S/C10H11BrN2.ClH/c11-9-5-8-6-12-3-4-13(8)10(9)7-1-2-7;/h5-7H,1-4H2;1H
